US07037935B2
a) (RS)-1-(4-Benzyloxy-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid
18.8 g (94.4 mmol) 4-benzyloxyaniline are mixed with 12.28 g (94.4 mmol) itaconic acid. The mixture is heated to 130° C. After 20 min the melted material solidifies. The resulting solid is triturated with ethyl acetate to yield 28.26 g (96%) of a greyish solid. MS: m/e=311 (M+).

reactant | 4-benzyloxyaniline | 94.4 mmol, 18.8 g | C(C1=CC=CC=C1)OC1=CC=C(N)C=C1 | C13H13NO
reactant | itaconic acid | 94.4 mmol, 12.28 g | C(C(=C)CC(=O)O)(=O)O | C5H6O4
product | (RS)-1-(4-Benzyloxy-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid | 28.26 g, 96% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1CC(CC1=O)C(=O)O | C18H17NO4
